US03952001
A mixture of 6.45 g. 3-ethylsulphonyl-1,2,4-triazole, 6.6 g. diallylcarbamoyl chloride, 25 ml. dry tetrahydrofuran and 8 ml. dry triethylamine was refluxed under anhydrous conditions for 1.5 hours. The cooled reaction mixture was filtered and the filtrate distilled under reduced pressure to remove solvent and give a product which distilled at 187°C./0.2 mm. This product solidified and was recrystallized from petroleum ether (b.p. 60° - 80°C.) to give 1-diallylcarbamoyl-3-ethylsulphonyl-1,2,4-triazole, m.p. 39° - 42°C. Elemental analysis satisfactory.

reactant | 3-ethylsulphonyl-1,2,4-triazole | C(C)S(=O)(=O)C1=NNC=N1 | C4H7N3O2S
reactant | diallylcarbamoyl chloride | C(C=C)N(C(=O)Cl)CC=C | C7H10ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-diallylcarbamoyl-3-ethylsulphonyl-1,2,4-triazole | C(C=C)N(C(=O)N1N=C(N=C1)S(=O)(=O)CC)CC=C | C11H16N4O3S
